US07214673B2
(S,S)-2-[1-Methyl-4-(2-methyl-4H-3-thia-4,9-diazabenzo[f]azulen-10-yl)-piperazin-2-yl]-1-phenyl-ethanol
Add formaldehyde (33 μL, 0.42 mmol, 37% in water) to a solution of (S,S)-2-[4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-1-phenyl-ethanol (160 mg, 0.38 mmol) in methylene chloride (6 mL). Stir 15 min at ambient temperature. Add sodium triacetoxyborohydride (121 mg, 0.57 mmol) and stir 2 h at ambient temperature. Dilute with saturated sodium bicarbonate solution and extract with methylene chloride. Dry the extracts with sodium sulfate, filter and concentrate the filtrate. Purify by radial silica gel chromatography using a 2 mm plate and 2N ammonia in methanol-methylene chloride (1%–5%) as the eluent to give 70 mg (42%) of the title compound: mass spectrum (ion spray): m/z=433 (M+1), 431 (M−1). HR-MS calculated for C25H29N4OS: 433.2062. Found 433.2061. 1H NMR (DMSO-d6): δ 7.60 (s, 1H), 7.36–7.17 (m, 5H), 6.88–6.75 (m, 3H), 6.68 (br d, 1H), 6.35 (s, 1H), 5.34 (br d, 1H), 4.60–4.50 (m, 1H), 3.85 (br d, 1H), 3.70 (br d, 1H), 3.04–2.92 (m, 1H), 2.85–2.66 (m, 2H), 2.29 (s, 3H), 2.17 (s, 3H), 2.20–2.10 (m, 1H) 2.08–1.98 (m, 1H), 1.97–1.85 (m, 1H), 1.66–1.52 (m, 1H).

reactant | formaldehyde | 0.42 mmol, 33 μL | C=O | CH2O
reactant | (S,S)-2-[4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-1-phenyl-ethanol | 0.38 mmol, 160 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)C[C@H](O)C3=CC=CC=C3 | C24H26N4OS
reactant | sodium triacetoxyborohydride | 0.57 mmol, 121 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S,S)-2-[1-Methyl-4-(2-methyl-4H-3-thia-4,9-diazabenzo[f]azulen-10-yl)-piperazin-2-yl]-1-phenyl-ethanol | 70 mg, 42% | CN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)C[C@H](O)C2=CC=CC=C2 | C25H28N4OS
